US06387911B1
2-Cyano-5-methoxybenzylamine
A mixture of 2-cyano-5-methoxybenzyl azide (1 g, 5.3 mmol) and 10% palladium on carbon (500 mg) in ethyl acetate (30 ml) was stirred at room temperature under an atmosphere of hydrogen for 1 h. The catalyst was removed by filtration through a bed of Celite and the filtrate concentrated to yield the product as an orange oil: 1H NMR (CDCl3) δ7.56 (d, J=8.5 Hz, 1H), 7.07 (d, J=2.5 Hz, 1H), 6.82 (dd, J=2.5, 8.5 Hz, 1H), 4.05 (br s, 2H), 3.87 (s, 3H).

reactant | 2-cyano-5-methoxybenzyl azide | 5.3 mmol, 1 g | C(#N)C1=C(CN=[N+]=[N-])C=C(C=C1)OC | C9H8N4O
catalyst | palladium on carbon | 500 mg | [Pd] | Pd
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 2-Cyano-5-methoxybenzylamine | C(#N)C1=C(CN)C=C(C=C1)OC | C9H10N2O
